US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine hydrochloride (200 mg), 4-nitrobenzyl chloride (158 mg) and triethylamine (268 μl) in tetrahydrofuran (5 ml) was refluxed overnight. After cooling, the precipitates were filtered off and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of toluene and ethyl acetate as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-4-(4-nitrobenzyl)piperazine (169.8 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine hydrochloride | 200 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)(F)F
reactant | 4-nitrobenzyl chloride | 158 mg | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | triethylamine | 268 μl | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-4-(4-nitrobenzyl)piperazine | 169.8 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)[N+](=O)[O-])CC2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)(F)F | C27H21Cl2F6N3O3
